US08258097B2
(S)-2-[(S)-2-Benzyloxycarbonylamino-3-(3,4-bis-benzyloxy-phenyl)-propionylamino]-3-(3-benzyloxy-4-methylcarbamoyloxy-phenyl)-propionic acid methyl ester (0.40 g, 0.470 mmol) was suspended in ethyl acetate (20 ml) and methanol (20 ml). Pd/C (5%, 0.10 g) and benzyl chloride (0.065 g, 0.517 mmol) were added. The hydrogenation was carried out under 30 psi of hydrogen for 3 h. After filtration and removal of solvent, the residue was redissolved in methanol (2 ml). Diethyl ether was added and a white solid precipitated. (S)-2-(3,4-Dihydroxy-phenyl)-1-[(S)-2-(3-hydroxy-4-methylcarbam-oyloxy-phenyl)-1-methoxycarbonyl-ethylcarbamoyl]-ethyl-ammonium chloride was obtained as a white solid by filtration, 0.22 g. 1H NMR (400 MHz, d6-DMSO) 2.63 (d, 3H), 2.72 (m, 1H), 2.83-3.02 (m, 3H), 3.64 (s, 3H), 3.93 (m, 1H), 4.50 (m, 1H), 6.52 (m, 1H), 6.65 (m, 3H), 6.85 (m, 2H), 7.46 (m, 1H), 8.11 (s, 3H), 8.87 (s, 1H), 8.96 (s, 1H), 9.13 (m, 1H), 9.61 (s, 1H). m/z 448 (MH+).

reactant | (S)-2-[(S)-2-Benzyloxycarbonylamino-3-(3,4-bis-benzyloxy-phenyl)-propionylamino]-3-(3-benzyloxy-4-methylcarbamoyloxy-phenyl)-propionic acid methyl ester | 0.470 mmol, 0.40 g | COC([C@H](CC1=CC(=C(C=C1)OC(NC)=O)OCC1=CC=CC=C1)NC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C50H49N3O10
reactant | benzyl chloride | 0.517 mmol, 0.065 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | (S)-2-(3,4-Dihydroxy-phenyl)-1-[(S)-2-(3-hydroxy-4-methylcarbam-oyloxy-phenyl)-1-methoxycarbonyl-ethylcarbamoyl]-ethyl-ammonium chloride | [Cl-].OC=1C=C(C=CC1O)C[C@@H](C(N[C@@H](CC1=CC(=C(C=C1)OC(NC)=O)O)C(=O)OC)=O)[NH3+] | InChI=1S/C21H25N3O8.ClH/c1-23-21(30)32-18-6-4-12(10-17(18)27)8-14(20(29)31-2)24-19(28)13(22)7-11-3-5-15(25)16(26)9-11;/h3-6,9-10,13-14,25-27H,7-8,22H2,1-2H3,(H,23,30)(H,24,28);1H/t13-,14-;/m0./s1
